US08207164B2
g) 3-amino-3-(5-bromo-2-fluorophenyl)-2,2-difluorobutan-1-ol
To a solution of N-(2-(5-bromo-2-fluorophenyl)-4-(tert-butyldimethylsilyloxy)-3,3-difluorobutan-2-yl)-2-methylpropane-2-sulfinamide (8.8 g, 17.08 mmol) in dry MeOH (60 mL), dry HCl gas was purged for 30 min at −22° C. Reaction mixture was concentrated under reduced pressure and basified with NH4OH solution under cooling. Product was extracted with dichloromethane, washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure to furnish title compound as a color less thick liquid. Yield=4.4 g (88%).

reactant | N-(2-(5-bromo-2-fluorophenyl)-4-(tert-butyldimethylsilyloxy)-3,3-difluorobutan-2-yl)-2-methylpropane-2-sulfinamide | 17.08 mmol, 8.8 g | BrC=1C=CC(=C(C1)C(C)(C(CO[Si](C)(C)C(C)(C)C)(F)F)NS(=O)C(C)(C)C)F | C20H33BrF3NO2SSi
solvent | MeOH | 60 mL | CO | CH4O
solvent | HCl | Cl | ClH
product | 3-amino-3-(5-bromo-2-fluorophenyl)-2,2-difluorobutan-1-ol | NC(C(CO)(F)F)(C)C1=C(C=CC(=C1)Br)F | C10H11BrF3NO
